US08633173B2
8-(4-Trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine was prepared from 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (504.7 mg, 2.369 mmol) and (4-trifluoromethylphenyl)boronic acid (500.0 mg, 2.632 mmol) in a manner analogous to Step 2c. The reaction product was isolated as a yellow solid (0.64 g, 97%). MP=186-187° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.62 (d, J=6.3 Hz, 1H), 8.34 (d, J=8.0 Hz, 2H), 7.88-7.80 (m, 3H), 7.02 (t, J=6.8 Hz, 1H), 6.18 (s, 2H). MS=279 (MH)+.

reactant | 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 2.369 mmol, 504.7 mg | BrC=1C=2N(C=CC1)N=C(N2)N | C6H5BrN4
reactant | (4-trifluoromethylphenyl)boronic acid | 2.632 mmol, 500.0 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 8-(4-Trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | FC(C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N)(F)F | C13H9F3N4
